Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Aspirin / Sulfa(Sulfonamide Antibiotics) / 
lisinopril / Losartan
 
Attending: ___.
 
Chief Complaint:
___ yo G6P3 with poorly controlled HTN here for BP management
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: ___ G6P3 at ___ who presented to her routine prenatal
care visit with severe range blood pressures. She was
asymptomatic and denied headache, RUQ pain and vision changes.
Given the severe range BP, she was sent to OB Triage for
evaluation. 

On evaluation here, she also denies ctx, VB, LOF.  Endorses +FM.

Upon questioning here, she admits to being noncompliant and not
taking her labetalol for the last two months. 

ROS: Denies fevers/chills or recent illness.  Denies HA, vision
changes, RUQ/epigastric pain.  Denies chest pain, shortness or
breath, palpitations.  Denies abd pain.  Denies recent falls or
abd trauma.  Denies any unusual foods/undercooked foods, nausea,
vomiting, diarrhea.

PNC:
- ___ ___ by LMP and confirmed by first trimester 
ultrasound
- Labs: O+/Abs-/RI/RPRNR/HbsAg-/HIV-/HCV-/[ ] GBS
- Screening: declined screening, CF neg, SMA neg
- FFS: wnl, multiple fibroids, largest R anterior 5cm
- GLT: to do during this admission
Issues:
#AMA: declined aneuploidy screening
#cHTN: poorly controlled. Prior to pregnancy on
chlorthalidone/amlodipine and started on labetalol 200mg in
pregnancy (has not been taking); nifedipine 30mg CR ___
baseline 24hr urine 464 with nml PIH labs

OBHx: G6P3
- SVD x 3 ___ all term and had elevated BP
postpartum requiring BP meds but no magnesium)
- TAB x 1
- Ectopic x 1 (no records of this procedure being done)

GYNHx: 
- denies STIs 
- remote hx of abnormal pap with normal last in ___ 
- hx of nexplanon, paragard, Mirena, OCPs, patch and ring
 
Past Medical History:
PMH:
- cHTN: poorly controlled
- G6PD deficiency
- Hx of nephrolithiasis 

PSH: 
- D&C (TAB)
- dx lsc for ectopic pregnancy (unclear if salpingectomy or
salpingostomy)
- left ACL reconstruction and partial  medial menisectomy
 
Social History:
SocHx: denies T/E/D. works as a ___ at ___ 
 
Physical Exam:
Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: gravid, non-tender  
 EXTREMITIES: non-tender, no edema  
 FHR: present at a normal rate  
 
Pertinent Results:
___ 10:26PM BLOOD WBC-17.7* RBC-3.35* Hgb-10.0* Hct-30.6* 
MCV-91 MCH-29.9 MCHC-32.7 RDW-12.5 RDWSD-41.3 Plt ___
___ 06:17AM BLOOD WBC-10.8* RBC-2.96* Hgb-8.7* Hct-27.1* 
MCV-92 MCH-29.4 MCHC-32.1 RDW-12.4 RDWSD-41.1 Plt ___
___ 05:55PM BLOOD WBC-12.6* RBC-3.15* Hgb-9.4* Hct-28.9* 
MCV-92 MCH-29.8 MCHC-32.5 RDW-12.4 RDWSD-41.3 Plt ___
___ 10:26PM BLOOD Creat-0.6
___ 06:17AM BLOOD Creat-0.6
___ 05:55PM BLOOD Creat-0.6
___ 10:26PM BLOOD ALT-15 AST-19
___ 06:17AM BLOOD ALT-11 AST-16 LD(LDH)-212
___ 05:55PM BLOOD ALT-17 AST-64*
___ 06:17AM BLOOD UricAcd-2.2* Iron-67
___ 06:17AM BLOOD calTIBC-489* ___ Ferritn-12* 
TRF-376*
___ 05:53PM URINE Color-Straw Appear-Clear Sp ___
___ 05:53PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:53PM URINE RBC-<1 WBC-<1 Bacteri-FEW* Yeast-NONE 
Epi-3 TransE-<1
___ 05:53PM URINE Mucous-RARE*
___ 09:23PM URINE pH-7 Hours-24 Volume-4600 Creat-39 
TotProt-5 Prot/Cr-0.1
___ 05:53PM URINE Hours-RANDOM Creat-82 TotProt-13 
Prot/Cr-0.2
___ 09:23PM URINE 24Creat-1794 24Prot-230
 
Brief Hospital Course:
On ___, Ms. ___ was admitted at ___ with poorly chronic 
HTN and a severe HA. Her BPs on admission were noted to be range 
was in the 120s-180s / 80s-120s. Pt was given 20mg of IV 
labetalol and 10mg of PO nifedipine for BP control in triage. 
She had normal PIH labs as well as a negative urine P:C (0.2). 
She was started on nifedipine 30mg CR daily given better 
response to nifedipine compared to labetalol. She was also 
started on a 24 hour urine which resulted as 230mg, a decrease 
from her baseline of 464mg. 

She was also noted to have a severe headache, which improved 
after compazine, bendaryl, tylenol, fioricet, ativan, and IVF 
bolus. She did not have any other symptoms of pre-eclampsia. 

On ___, she was noted to have severe range BPs which 
improved with a dose of immediate release PO nifedipine 10mg. 
She was then uptitrated to nifedipine 30mg CR BID. Her PIH labs 
were repeated which were within normal limits. During this 
admission, she also had a baseline EKG performed which was 
consistent with LVH. 

She received a course of betamethasone (complete ___ and 
underwent a consultation with the NICU. 

On ___, her HA remained resolved without any other symptoms 
of pre-eclampsia. Her blood pressures remained in the normal to 
mild range without any further severe range BPs. She also had a 
formal ultrasound performed which showed EFW of 1113g in the 
49th%. She was then discharged with strict pre-eclampsia 
precautions and close follow up with her primary OB. 

 
Discharge Medications:
1.  NIFEdipine (Extended Release) 30 mg PO QPM 
RX *nifedipine 30 mg 1 tablet(s) by mouth twice a day Disp #*90 
Tablet Refills:*2 
2.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___,  

You were admitted to the hospital with elevated blood pressures 
and a headache. Your blood pressures were monitored overnight 
and remained normal to moderately elevated. We treated your 
headache which has now resolved. Your urine collection indicated 
that you do not have preeclampsia. You received a course of 
steroids to help your baby's lung mature in case we have to 
deliver your baby early. You were also seen by the neonatology 
team while you were admitted. We think it is now safe for you to 
go home. Please follow the instructions below: 
 
 - Attend all appointments with your obstetrician and all fetal 
scans  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___